US04006245
A mixture of 8.0 parts of 8-[3-(2-n-butylphenoxy)propoxy]-4-oxo-4H-1-benzopyran-2-carboxylate, 1.696 parts of sodium bicarbonate and 600 parts of water was heated to effect solution. The hot solution was filtered, allowed to cool to give a solid, which was collected and dried under vacuum over calcium chloride to furnish 8.2 parts of sodium 8-[3 -(2n-butylphenoxy)propoxy] -4-oxo-4H-1-benzopyran-2-carboxylate monohydrate.

reactant | 8-[3-(2-n-butylphenoxy)propoxy]-4-oxo-4H-1-benzopyran-2-carboxylate | C(CCC)C1=C(OCCCOC2=CC=CC=3C(C=C(OC32)C(=O)[O-])=O)C=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | sodium 8-[3 -(2n-butylphenoxy)propoxy] -4-oxo-4H-1-benzopyran-2-carboxylate monohydrate | O.C(CCC)C1=C(OCCCOC2=CC=CC=3C(C=C(OC32)C(=O)[O-])=O)C=CC=C1.[Na+] | InChI=1S/C23H24O6.Na.H2O/c1-2-3-8-16-9-4-5-11-19(16)27-13-7-14-28-20-12-6-10-17-18(24)15-21(23(25)26)29-22(17)20;;/h4-6,9-12,15H,2-3,7-8,13-14H2,1H3,(H,25,26);;1H2/q;+1;/p-1
